US07067510B2
Add a solution of 2-methoxybenzylzinc chloride (8 mL, 0.5 M/THF) to a mixture of trifluoro-methanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester (1.0 g, 1.86 mmol), Bu4NI (2.1 g, 5.7 mmol), Pd(dba)2 (68 mg 0.12 mmol) and dppf (66 mg, 0.12 mmol) in NMP/THF (5 mL, 3:2). Heat the mixture to reflux for 2 h. Quench the reaction with water and dilute with CH2Cl2. Wash the organic phase with water and brine, dry over MgSO4, filter and concentrate. Load the crude product on an SCX cartridge, wash with MeOH and elute with 2M NH3/MeOH. Purify the resulting product by flash chromatography (0–5% (2M NH3/MeOH)/CH2Cl2) to afford [6-methoxy-2-(2-methoxy-benzyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (820 mg, 87%).

reactant | 2-methoxybenzylzinc chloride | 0.5 M, 8 mL | [Cl-].COC1=C(C[Zn+])C=CC=C1
reactant | trifluoro-methanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester | 1.86 mmol, 1.0 g | COC=1C=C2C=CC(=C(C2=CC1)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)OS(=O)(=O)C(F)(F)F | C26H26F3NO6S
catalyst | Bu4NI | 5.7 mmol, 2.1 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
solvent | NMP THF | 5 mL | CN1CCCC1=O.C1CCOC1
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd(dba)2 | 0.12 mmol, 68 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | dppf | 0.12 mmol, 66 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | [6-methoxy-2-(2-methoxy-benzyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 820 mg, 87% | COC=1C=C2C=CC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)CC1=C(C=CC=C1)OC | C33H35NO4
